* /Users/manoelribeiroalmeida/dev/trit/LTspice/TAND.asc
.subckt TAND a b vcc vee out

M1 N002 a P001 P001 PMOS
M2 P002 b vee vee NMOS
M3 P001 b vcc vcc PMOS
M4 N004 a P002 P002 NMOS
M5 N001 N003 vee vee NMOS
R3 out N001 10k
M6 N005 N003 vcc vcc PMOS
R4 out N005 10k
R5 N003 N002 10k
R6 N003 N004 10k
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.mos
.backanno
.ends
